US04002810
EXAMPLE 1 -- Preparation of 1,1,1,2,3,3-Hexafluoropentane
When a reaction between ethane and hexafluoropropene was carried out in a 250 ml. Hastalloy-lined autoclave at a temperature of 280° C and under an initial total pressure of 150 atmospheres, a similar yield (76% based on hexafluoropropene consumed) of 1,1,1,2,3,3-hexafluoropentane was obtained.

reactant | ethane | CC | C2H6
reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
product | 1,1,1,2,3,3-Hexafluoropentane | FC(C(C(CC)(F)F)F)(F)F | C5H6F6
